US04141958
Table I shows that the %P2O5 yield in the acid varies depending on the solvent used. The maximum yields were obtained with methanol, acetone, ethanol, n-propanol, n-butanol, n-decanol and tetrahydrofuran. Other solvents gave lower yields. In most cases the dissociation reaction reached equilibrium in 1/4 to 1/2 hours. Temperature has a minor effect on the reaction in most cases and the temperature may vary over a wide range. The maximum P2O5 yield of about 35% corresponds to a theoretical yield of about 70%.

reactant | P2O5 | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | methanol | CO | CH4O
reactant | acetone | CC(=O)C | C3H6O
reactant | ethanol | C(C)O | C2H6O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | n-butanol | C(CCC)O | C4H10O
solvent | n-propanol | C(CC)O | C3H8O
product | n-decanol | yield of about 70% | C(CCCCCCCCC)O | C10H22O
